US07507734B2
100 mg 6-hydroxy-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester and 175 mg triphenylphosphine are dissolved in 7 mL toluene and 2 mL THF. After dropwise addition of 84 μL 2-dimethylaminoethanol and 123 μL diethyl azodicarboxylate, the reaction mixture is stirred at room temperature for 5 hours. The solvent is removed in vacuo and the residue is dissolved in dichloromethane. The organic phase is washed with water and the aqueous phase is extracted twice with dichloromethane. The combined organic phases are dried over MgSO4 and concentrated in vacuo. Purification by HPLC afforded 35 mg (43%) 6-(2-dimethylaminoethoxy)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester.

reactant | 6-hydroxy-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C23H22N4O4
reactant | triphenylphosphine | 175 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 84 μL | CN(CCO)C | C4H11NO
reactant | diethyl azodicarboxylate | 123 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(2-dimethylaminoethoxy)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 35 mg, 43% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)OCCN(C)C)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C27H31N5O4
